US03971797
A mixture of 1 g. of bis[2-methyl-3-benzoyloxy-4-benzoyloxymethyl-5-pyridylmethyl]disulfide dihydrochloride, 2 g. of zinc dust and 20 ml. acetic acid was stirred at room temperature overnight under nitrogen. The mixture was filtered and extracted well with chloroform. The chloroform was washed with water, aqueous sodium bicarbonate, water dried over magnesium sulfate, and evaporated to dryness. The residue was recrystallized from chloroform to give 2-methyl-3-benzoyloxy-4-benzoyloxymethyl-5-mercaptomethylpyridine, m.p. 185°-189°C.

reactant | bis[2-methyl-3-benzoyloxy-4-benzoyloxymethyl-5-pyridylmethyl]disulfide dihydrochloride | Cl.Cl.CC1=NC=C(C(=C1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)CSSCC=1C(=C(C(=NC1)C)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methyl-3-benzoyloxy-4-benzoyloxymethyl-5-mercaptomethylpyridine | CC1=NC=C(C(=C1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)CS | C22H19NO4S
